US09163027B2
Methyl 4-(4-chlorophenoxy)butanoate
A mixture of methyl 4-bromobutyrate (1.5 g, 8.29 mmol), 4-chlorophenol (1.17 g, 9.11 mmol), potassium carbonate (2.86 g, 20.7 mmol), and anhydrous N,N-dimethylformamide (5 mL) was added to a 25 mL RBF with a magnetic stirring bar. The mixture was allowed to stir at room temperature for 16 hours. Progress of the reaction was monitored by analytical HPLC with UV detection (Rt=6.5 min). The mixture was added to stirring ice/water (150 mL) and extracted with ethyl acetate (2×30 mL). The combined organic layers were washed with saturated aqueous NaCl (2×30 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude material was purified by silica gel column chromatography using a gradient elution of 0-100% ethyl acetate in hexanes to afford the title compound as a clear oil (1.45 g, 76% yield).

reactant | methyl 4-bromobutyrate | 8.29 mmol, 1.5 g | BrCCCC(=O)OC | C5H9BrO2
reactant | 4-chlorophenol | 9.11 mmol, 1.17 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium carbonate | 20.7 mmol, 2.86 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Methyl 4-(4-chlorophenoxy)butanoate | 1.45 g, 76% yield | ClC1=CC=C(OCCCC(=O)OC)C=C1 | C11H13ClO3
